* C:\Users\Davide\Desktop\Extended Memristor Github\Modello2k25_modifiable.asc
V1 N1 0 PWL(0 0 6.289515499999999 3 12.579030999999999 0 18.868546499999997 -3 25.158061999999997 0)
B1 N1 0 I = ( ( h+c/( 1+exp(-0.5*(V(N2)-p) ) ) ) * (V(N1)**3 +( d*exp( 2.7* V(N1) )-d) ) /( 1+g*exp( -k*V(N1) ) ) * arctan( ( V(N2)*f)**3 *V(N2) /(phi**3) ) ) - a*(exp(-x*V(N1) )-1)*sqrt(V(N2)**2*f/phi)/(1+b*exp(k*V(N1) ))
Gaux 0 N2 N1 0 1µ
Caux N2 0 1µ
Raux N2 0 100G
B2 N1 0 I = IF(V(N1) > 0, I0*(EXP(eta*V(N1)) - 1), 0)
B3 0 N1 I = IF(V(N1) < 0, I1*(EXP(eta1*V(N1)) - 1), 0)
.tran 0 25.158061999999997 0 1m
.param k=0.46571838101761404 c=4.91722225861246e-07 a=4.530168679381358e-12 f=0.039748689704318246 phi=1.377178389337994 h=1.1827678970629028e-07 b=7.688989308700398 g=15.552538686528772 p=8.694288932568476 d=0.10616623621227703 y=0.01940962110012114 x=3.6392123097440847 I0=7.0833212611410486e-12 eta=2.283898933685045 I1=5.658959115034855e-12 eta1=-3.1429083870807704
.model D1 D(IS=1e-15 N=4 Vj=1)
.backanno
.end
